US08871756B2
trans-N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]cyclohexane-1,2-diamine
The title compound was prepared in analogy to Example 3-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and trans-cyclohexane-1,2-diamine. MS obsd. (ESI+) [(M+H)+] 451, 1H NMR (400 MHz, CD3OD) δ ppm 8.06-7.96 (d, J=7.8 Hz, 1 H), 7.83 (d, J=7.33 Hz, 1 H), 7.70 (s, 1 H), 7.60 (td, J=7.52, 1.14 Hz, 1 H), 7.50-7.38 (m, 2 H), 7.28 (dd, J=8.46, 1.64 Hz, 1 H), 6.13 (s, 1 H), 5.20-5.11 (m, 2 H), 3.72-3.60 (m, 1 H), 3.58-3.49 (m, 1 H), 3.42-3.35 (m, 2 H), 3.35-3.30 (m, 1 H), 2.87 (td, J=10.17, 3.92 Hz, 1 H), 2.42 (s, 3 H), 2.10 (d, J=5.31 Hz, 1 H), 2.01 (d, J=13.14 Hz, 1 H), 1.89 (d, J=8.08 Hz, 2 H), 1.67-1.56 (m, 1 H), 1.51-1.41 (m, 2 H), 1.32-1.17 (m, 1 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | trans-cyclohexane-1,2-diamine | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
product | trans-N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]cyclohexane-1,2-diamine | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)N[C@H]2[C@@H](CCCC2)N)C)=O | C25H30N4O2S
